US08877794B2
39.1 1-Chloro-4-{1-[(E)-2-nitroethenyl]cyclobutyl}benzene
1-(1-(4-Chlorophenyl)cyclobutyl)-2-nitroethanol (5.2 g, 20.34 mmol) was dissolved in dichloromethane (41 ml) and trifluoroacetic acid anhydride (2.87 ml, 20.34 mmol) was added. The reaction mixture was cooled to 0° C. and triethylamine (5.67 ml, 40.7 mmol) was added dropwise. The reaction was slowly warmed to room temperature and stirring Was continued for 2 h. The reaction mixture was diluted with dichloromethane and washed with aqueous hydrochloric acid (1 N). The organic layer was dried (magnesium sulfate) and concentrated in vacuo. The crude product was purified by flash chromatography (silica, dichloromethane, methanol). Yield: 3.99 g (16.79 mmol, 83%)

reactant | 1-(1-(4-Chlorophenyl)cyclobutyl)-2-nitroethanol | 20.34 mmol, 5.2 g | ClC1=CC=C(C=C1)C1(CCC1)C(C[N+](=O)[O-])O | C12H14ClNO3
reactant | trifluoroacetic acid anhydride | 20.34 mmol, 2.87 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | triethylamine | 40.7 mmol, 5.67 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 41 ml | ClCCl | CH2Cl2
product | 1-Chloro-4-{1-[(E)-2-nitroethenyl]cyclobutyl}benzene | ClC1=CC=C(C=C1)C1(CCC1)\C=C\[N+](=O)[O-] | C12H12ClNO2
